US06756359B2
To (3aR,4R,7R,9R,10R,11R,13R,15R,15aR)-4-ethyl-3a-(hydroxymethyl)-11-methoxy-7,9,11,13,15-pentamethyl-2,6,8,14-tetraoxo-1-[4-(4-pyridin-3-yl-1H-imidazol-1-yl)butyl]tetradecahydro-2H-oxacyclotetradecino[4,3-d][1,3]oxazol-10-yl 3,4,6-trideoxy-3-(dimethylamino)-D-xylo-hexopyranoside (1 eq) in dichloromethane was added Dess-Martin Periodinane (1.1 eq). After stirring for 3 hours, more Dess-Martin Periodinane (1 eq) was added. After stirring for an additional 15 hours, the solution was diluted with ethyl acetate and was washed with 1:1 10% Na2S2O3/NaHCO3(sat), with NaCl(sat.), dried over MgSO4, filtered and concentrated. Purification by RP HPLC yielded (3aS,4R,7R,9R,10R,11R,13R,15R,15aR)-4-ethyl-3a-formyl-11-methoxy-7,9,11,13,15-pentamethyl-2,6,8,14-tetraoxo-1-[4-(4-pyridin-3-yl-1H-imidazol-1-yl)butyl]tetradecahydro-2H-oxacyclotetradecino[4,3-d][1,3]oxazol-10-yl 3,4,6-trideoxy-3-(dimethylamino)-D-xylo-hexopyranoside (19% yield) as a white solid. MH+(826.5).

reactant | (3aR,4R,7R,9R,10R,11R,13R,15R,15aR)-4-ethyl-3a-(hydroxymethyl)-11-methoxy-7,9,11,13,15-pentamethyl-2,6,8,14-tetraoxo-1-[4-(4-pyridin-3-yl-1H-imidazol-1-yl)butyl]tetradecahydro-2H-oxacyclotetradecino[4,3-d][1,3]oxazol-10-yl 3,4,6-trideoxy-3-(dimethylamino)-D-xylo-hexopyranoside | 1 eq | CN([C@@H]1[C@H](C(O[C@H]2[C@](C[C@H](C([C@@H]([C@H]3N(C(O[C@@]3([C@H](OC([C@@H](C([C@@H]2C)=O)C)=O)CC)CO)=O)CCCCN2C=NC(=C2)C=2C=NC=CC2)C)=O)C)(C)OC)O[C@@H](C1)C)O)C | C43H65N5O11
reactant | Dess-Martin Periodinane | 1.1 eq | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin Periodinane | 1 eq | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3aS,4R,7R,9R,10R,11R,13R,15R,15aR)-4-ethyl-3a-formyl-11-methoxy-7,9,11,13,15-pentamethyl-2,6,8,14-tetraoxo-1-[4-(4-pyridin-3-yl-1H-imidazol-1-yl)butyl]tetradecahydro-2H-oxacyclotetradecino[4,3-d][1,3]oxazol-10-yl 3,4,6-trideoxy-3-(dimethylamino)-D-xylo-hexopyranoside | 19% yield | CN([C@@H]1[C@H](C(O[C@H]2[C@](C[C@H](C([C@@H]([C@H]3N(C(O[C@@]3([C@H](OC([C@@H](C([C@@H]2C)=O)C)=O)CC)C=O)=O)CCCCN2C=NC(=C2)C=2C=NC=CC2)C)=O)C)(C)OC)O[C@@H](C1)C)O)C | C43H63N5O11
